### PR TITLE
Infinitely and finitely coherent equivalences and infinitely and finitely coherently invertible maps

### PR DESCRIPTION
**Pull request by EgbertRijke**
This PR is part of the diploma project of @maybemabeline.

We add some new definitions to the library, and we found some ways to express infinite coherence.

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
This is super cool! I will review it when I have a little more energy. Did you consider the definition of [∞-path-split maps ](https://homotopytypetheory.org/2014/11/02/universal-properties-without-function-extensionality/) also?

**Comment by EgbertRijke** [comment]
Sure, it is very unfinished at the moment, so there is absolutely no rush with a review.

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 1]
```diff
@@ -0,0 +1,272 @@
...
+      ( map-inv-is-infinitely-coherent-equivalence H)
+      ( λ y →
+        map-inv-is-infinitely-coherent-equivalence
+          ( is-equiv-map-transpose-is-infinitely-coherent-equivalence H _ y)
+          (  refl))
+      ( λ x →
+        inv (map-transpose-is-infinitely-coherent-equivalence H x (f x) refl))
+```
+
+### Any map homotopy to an infinitely coherent equivalence is an infinitely coherent equivalence
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:172]:
```suggestion
### Any map homotopic to an infinitely coherent equivalence is an infinitely coherent equivalence
```

**Comment by fredrik-bakke** [comment]
Ah, okay. I will hold off on a review then 🙂

**Comment by EgbertRijke** [comment]
I'm gonna need limits of inverse sequential diagrams to make progress, but I don't want to do that now. So I declare this PR ready for review.

**Comment by fredrik-bakke** [comment]
...we do have them

**Comment by fredrik-bakke** [comment]
but maybe there's something more you had in mind?

**Comment by EgbertRijke** [comment]
I know that we have them, but this PR is becoming a serious amount of work if I want to formalize everything that I am ready to claim informally. It will be a longer project, and it is better keep this PR short. I should work on spans too.

**Comment by fredrik-bakke** [comment]
Okey dokey.

File: src/foundation/finitely-coherent-equivalences.lagda.md [hunk 2]
```diff
@@ -0,0 +1,77 @@
...
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+Any map `f : A → B` is said to be a `0`-coherent equivalence. Furthermore, a map
+`f : A → B` is said to be a `n + 1`-coherent equivalence if it comes equipped
+with map `g : B → A` and a family of maps
```
Comment (fredrik-bakke) [inline src/foundation/finitely-coherent-equivalences.lagda.md:23]:
```suggestion
with a map `g : B → A` and a family of maps
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 3]
```diff
@@ -0,0 +1,311 @@
...
+            /             \
+           ∨               ∨
+  (x = h y) --------------> (x = k y)
+             p ↦ p ∙ α₀ y
+```
+
+commutes, and finally a homotopy of elements of type
+
+```text
+  is-infintitely-coherent-equivalence
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:214]:
```suggestion
  is-infinitely-coherent-equivalence
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 4]
```diff
@@ -0,0 +1,311 @@
...
+  is-∞-equiv f → type-compute-is-∞-equiv f
+pr1 (map-inv-compute-is-∞-equiv f H) =
+  map-inv-is-∞-equiv H
+pr1 (pr2 (map-inv-compute-is-∞-equiv f H) x y) =
+  map-transpose-is-∞-equiv H x y
+pr2 (pr2 (map-inv-compute-is-∞-equiv f H) x y) =
+  is-∞-equiv-map-transpose-is-∞-equiv H x y
+```
+
+### Being a infinitely coherent equivalence is a property
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:304]:
```suggestion
### Being an infinitely coherent equivalence is a property
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 5]
```diff
@@ -0,0 +1,311 @@
...
+open ∞-equiv public
+
+module _
+  {l1 l2 : Level} (A : UU l1) (B : UU l2)
+  where
+
+  infix 6 _≃ᶜᵒʰ_
+
+  _≃ᶜᵒʰ_ : UU (l1 ⊔ l2)
+  _≃ᶜᵒʰ_ = ∞-equiv A B
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:115]: I'm not such a fan of stringing multiple sub- or superscript letters. How about calling it `_≃∞_` instead?

**Comment by fredrik-bakke** [comment]
Here are some things one can prove about the `transpose-eq` hypothesis. Indeed, it is equivalent to having a retraction. Maybe one can prove this without funext?

```agda
module _
  {l1 l2 : Level} {A : UU l1} {B : UU l2} (f : A → B) (g : B → A)
  where

  transpose-eq-is-retraction :
    g ∘ f ~ id → {x : B} {y : A} → x ＝ f y → g x ＝ y
  transpose-eq-is-retraction H {.(f y)} {y} refl = H y

  transpose-eq-is-retraction' :
    g ∘ f ~ id → {x : A} {y : B} → f x ＝ y → x ＝ g y
  transpose-eq-is-retraction' H {x} {.(f x)} refl = inv (H x)

  is-retraction-transpose-eq :
    ({x : B} {y : A} → x ＝ f y → g x ＝ y) → g ∘ f ~ id
  is-retraction-transpose-eq H x = H refl

  is-retraction-transpose-eq' :
    ({x : A} {y : B} → f x ＝ y → x ＝ g y) → g ∘ f ~ id
  is-retraction-transpose-eq' H x = inv (H refl)

  is-injective-has-transpose-eq :
    ({x : B} {y : A} → x ＝ f y → g x ＝ y) → is-injective f
  is-injective-has-transpose-eq H =
    is-injective-retraction f (g , is-retraction-transpose-eq H)

  is-retraction-is-retraction-transpose-eq :
    is-retraction-transpose-eq ∘ transpose-eq-is-retraction ~ id
  is-retraction-is-retraction-transpose-eq H = refl

  is-section-is-retraction-transpose-eq :
    transpose-eq-is-retraction ∘ is-retraction-transpose-eq ~ id
  is-section-is-retraction-transpose-eq H =
    eq-multivariable-htpy-implicit 2 (λ x y → eq-htpy (λ where refl → refl))
```

File: src/foundation/finitely-coherent-equivalences.lagda.md [hunk 6]
```diff
@@ -0,0 +1,77 @@
...
+
+```text
+  r x y : (f x ＝ y) → (x ＝ g y)
+```
+
+indexed by `x : A` and `y : B`, such that each `r x y` is an `n`-coherent
+equivalence.
+
+A `1`-coherent equivalence is therefore a map equipped with a
+[retraction](foundation-core.retractions.md). A `2`-coherent equivalence is a
```
Comment (fredrik-bakke) [inline src/foundation/finitely-coherent-equivalences.lagda.md:33]: This doesn't follow directly. Does it even follow at all without function extensionality?

File: src/foundation/finitely-coherently-invertible-maps.lagda.md [hunk 7]
```diff
@@ -0,0 +1,85 @@
...
+
+```text
+  r : (x : A) → g (f x) ＝ x
+  s : (y : B) → f (g y) ＝ y
+  t : (x : A) → ap f (r x) ＝ s (f x)
+  u : (y : B) → ap g (s y) ＝ r (f y)
+```
+
+The condition of being a `n`-coherently invertible map is not a proposition
+[proposition](foundation-core.propositions.md) for any `n`. In fact, for `n ≥ 1`
```
Comment (fredrik-bakke) [inline src/foundation/finitely-coherently-invertible-maps.lagda.md:64]:
```suggestion
The condition of being a `n`-coherently invertible map is not a [proposition](foundation-core.propositions.md) for any `n`. In fact, for `n ≥ 1`
```

File: src/foundation/finitely-coherent-equivalences.lagda.md [hunk 8]
```diff
@@ -0,0 +1,77 @@
...
+open import foundation.identity-types
+open import foundation.unit-type
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+Any map `f : A → B` is said to be a `0`-coherent equivalence. Furthermore, a map
```
Comment (fredrik-bakke) [inline src/foundation/finitely-coherent-equivalences.lagda.md:21]: concept "`0`-coherent  equivalence"

Comment (fredrik-bakke) [reply src/foundation/finitely-coherent-equivalences.lagda.md:21]: or start by concepting "`n`-coherent equivalence" before giving the inductive definition

File: src/foundation/finitely-coherent-equivalences.lagda.md [hunk 9]
```diff
@@ -0,0 +1,77 @@
...
+  t p q : (r x y p ＝ q) → (p ＝ s x y q)
+```
+
+This data is equivalent to the data of a
+[coherently invertible map](foundation-core.coherently-invertible-maps.md)
+
+```text
+  r : (x : A) → g (f x) ＝ x
+  s : (y : B) → f (g y) ＝ y
+  t : (x : A) → ap f (r x) ＝ s (f x)
```
Comment (fredrik-bakke) [inline src/foundation/finitely-coherent-equivalences.lagda.md:53]:
```suggestion
  t : (x : A) → ap f (r x) ＝ s (f x).
```

File: src/foundation/finitely-coherent-equivalences.lagda.md [hunk 10]
```diff
@@ -0,0 +1,77 @@
...
+```
+
+The condition of being an `n`-coherent equivalent is a
```
Comment (fredrik-bakke) [inline src/foundation/finitely-coherent-equivalences.lagda.md:56]:
```suggestion
The condition of being an `n`-coherent equivalence is a
```

File: src/foundation/finitely-coherently-invertible-maps.lagda.md [hunk 11]
```diff
@@ -0,0 +1,85 @@
...
+open import foundation.identity-types
+open import foundation.unit-type
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+Any map `f : A → B` is said to be `0`-coherently invertible if it comes equipped
```
Comment (fredrik-bakke) [inline src/foundation/finitely-coherently-invertible-maps.lagda.md:21]: concept

File: src/foundation/finitely-coherently-invertible-maps.lagda.md [hunk 12]
```diff
@@ -0,0 +1,85 @@
...
+This data is equivalent to the data of
+
+```text
+  r : (x : A) → g (f x) ＝ x
+  s : (y : B) → f (g y) ＝ y
+  t : (x : A) → ap f (r x) ＝ s (f x)
+  u : (y : B) → ap g (s y) ＝ r (f y)
+```
+
+The condition of being a `n`-coherently invertible map is not a proposition
```
Comment (fredrik-bakke) [inline src/foundation/finitely-coherently-invertible-maps.lagda.md:63]:
```suggestion
The condition of being an `n`-coherently invertible map is not a proposition
```

File: src/foundation/finitely-coherent-equivalences.lagda.md [hunk 13]
```diff
@@ -0,0 +1,77 @@
...
+open import foundation.unit-type
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+Any map `f : A → B` is said to be a `0`-coherent equivalence. Furthermore, a map
+`f : A → B` is said to be a `n + 1`-coherent equivalence if it comes equipped
```
Comment (fredrik-bakke) [inline src/foundation/finitely-coherent-equivalences.lagda.md:22]:
```suggestion
`f : A → B` is said to be an `n + 1`-coherent equivalence if it comes equipped
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 14]
```diff
@@ -0,0 +1,311 @@
...
+open import foundation.sections
+open import foundation.transposition-identifications-along-equivalences
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+A {{#concept "infinitely coherent equivalence"}} `e : A ≃ᶜ B` from `A` to `B`
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:29]:
```suggestion
A {{#concept "infinitely coherent equivalence"}} `e : A ≃∞ B` from `A` to `B`
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 15]
```diff
@@ -0,0 +1,311 @@
...
+consists of maps
+
+```text
+  f : A → B
+  g : B → A
+```
+
+and for each `x : A` and `y : B` a infinitely coherent equivalence
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:37]:
```suggestion
and for each `x : A` and `y : B` an infinitely coherent equivalence
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 16]
```diff
@@ -0,0 +1,311 @@
...
+
+```text
+  transpose-eq : (f x ＝ y) ≃ᶜ (g y ＝ x).
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:40]:
```suggestion
  transpose-eq : (f x ＝ y) ≃∞ (g y ＝ x).
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 17]
```diff
@@ -0,0 +1,311 @@
...
+
+```text
+  f' : (f x ＝ y) → (g y ＝ x)
+  g' : (g y ＝ x) → (f x ＝ y)
+```
+
+and for each `p : f x ＝ y` and `q : g y ＝ x` a infinitely coherent equivalence
+
+```text
+  transpose-eq : (f' p ＝ q) ≃ᶜ (g' q ＝ p).
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:54]:
```suggestion
  equiv-transpose-eq : (f' p ＝ q) ≃∞ (g' q ＝ p).
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:40]: Elsewhere, you've written this on the form

```text
  (f x ＝ y) ≃∞ (x ＝ g y).
```
with `g` on the right-hand side of the equation. Indeed, your formalization also does this. Therefore I suggest changing it here as well.

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 18]
```diff
@@ -0,0 +1,311 @@
...
+```text
+  transpose-eq : (f x ＝ y) ≃ᶜ (g y ＝ x).
+```
+
+Since this definition is infinite, it follows that for any `x : A` and `y : B`
+we have maps
+
+```text
+  f' : (f x ＝ y) → (g y ＝ x)
+  g' : (g y ＝ x) → (f x ＝ y)
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:48]:
```suggestion
  f' : (f x ＝ y) → (x ＝ g y)
  g' : (x ＝ g y) → (f x ＝ y)
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md (hunk 17 above)
Comment (fredrik-bakke) [reply src/foundation/infinitely-coherent-equivalences.lagda.md:54]: also, maybe change placement of `g'`?

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 19]
```diff
@@ -0,0 +1,311 @@
...
+
+which are the usual homotopies witnessing that `g` is a retraction and a section
+of `f`. By infinitely imposing the structure of a coherent equivalence, we have
+stated an infinite hierarchy of coherence conditions. In other words, the
+infinite condition on infinitely coherent equivalences is a way of stating
+infinite coherence for equivalences.
+
+## Definitions
+
+### The predicate of being a infinitely coherent equivalence
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:72]:
```suggestion
### The predicate of being an infinitely coherent equivalence
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 20]
```diff
@@ -0,0 +1,311 @@
...
+  is-equiv-is-∞-equiv : is-∞-equiv f → is-equiv f
+  is-equiv-is-∞-equiv H =
+    is-equiv-is-invertible
+      ( map-inv-is-∞-equiv H)
+      ( λ y →
+        map-inv-is-∞-equiv (is-∞-equiv-map-transpose-is-∞-equiv H _ y) refl)
+      ( λ x → inv (map-transpose-is-∞-equiv H x (f x) refl))
+```
+
+### Any map-∞-equiv homotopic to an infinitely coherent equivalence is an infinitely coherent equivalence
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:167]:
```suggestion
### Any map homotopic to an infinitely coherent equivalence is an infinitely coherent equivalence
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 21]
```diff
@@ -0,0 +1,311 @@
...
+  is-equiv f → is-∞-equiv f
+map-inv-is-∞-equiv (is-∞-equiv-is-equiv H) =
+  map-inv-is-equiv H
+map-transpose-is-∞-equiv (is-∞-equiv-is-equiv H) x y =
+  map-eq-transpose-equiv (_ , H)
+is-∞-equiv-map-transpose-is-∞-equiv (is-∞-equiv-is-equiv H) x y =
+  is-∞-equiv-is-equiv (is-equiv-map-equiv (eq-transpose-equiv (_ , H) x y))
+```
+
+### Being a infinitely coherent equivalence implies being an equivalence
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:151]:
```suggestion
### Being an infinitely coherent equivalence implies being an equivalence
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 22]
```diff
@@ -0,0 +1,311 @@
...
+  map-transpose-is-∞-equiv K x y ∘ concat (H x) _
+is-∞-equiv-map-transpose-is-∞-equiv (is-∞-equiv-htpy H K) x y =
+  is-∞-equiv-comp
+    ( is-∞-equiv-map-transpose-is-∞-equiv K x y)
+    ( is-∞-equiv-is-equiv (is-equiv-concat (H x) _))
+```
+
+### Homotopies of elements of type `is-∞-equiv f`
+
+Consider a map-∞-equiv `f : A → B` and consider two elements
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:186]:
```suggestion
Consider a map `f : A → B` and consider two elements
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 23]
```diff
@@ -0,0 +1,311 @@
...
+```
+
+A {{#concept "homotopy of elments of type `is-∞-equiv`" Agda=htpy-is-∞-equiv}}
+from `H := (h , s , H')` to `K := (k , t , K')` consists of a homotopy
+
+```text
+  α₀ : h ~ k,
+```
+
+for each `x : A` and `y : B` a homotopy `α₁` witnessing that the triangle
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:199]:
```suggestion
and for each `x : A` and `y : B` a homotopy `α₁` witnessing that the triangle
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 24]
```diff
@@ -0,0 +1,311 @@
...
+map-inv-compute-is-∞-equiv :
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} (f : A → B) →
+  is-∞-equiv f → type-compute-is-∞-equiv f
+pr1 (map-inv-compute-is-∞-equiv f H) =
+  map-inv-is-∞-equiv H
+pr1 (pr2 (map-inv-compute-is-∞-equiv f H) x y) =
+  map-transpose-is-∞-equiv H x y
+pr2 (pr2 (map-inv-compute-is-∞-equiv f H) x y) =
+  is-∞-equiv-map-transpose-is-∞-equiv H x y
+```
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:302]: Could you add your claim that `is-∞-equiv` is a sequential limit?

**Comment by EgbertRijke** [comment]
> Here are some things one can prove about the `transpose-eq` hypothesis. Indeed, it is equivalent to having a retraction. Maybe one can prove this without funext?
> 
> ```agda
> module _
>   {l1 l2 : Level} {A : UU l1} {B : UU l2} (f : A → B) (g : B → A)
>   where
> 
>   transpose-eq-is-retraction :
>     g ∘ f ~ id → {x : B} {y : A} → x ＝ f y → g x ＝ y
>   transpose-eq-is-retraction H {.(f y)} {y} refl = H y
> 
>   transpose-eq-is-retraction' :
>     g ∘ f ~ id → {x : A} {y : B} → f x ＝ y → x ＝ g y
>   transpose-eq-is-retraction' H {x} {.(f x)} refl = inv (H x)
> 
>   is-retraction-transpose-eq :
>     ({x : B} {y : A} → x ＝ f y → g x ＝ y) → g ∘ f ~ id
>   is-retraction-transpose-eq H x = H refl
> 
>   is-retraction-transpose-eq' :
>     ({x : A} {y : B} → f x ＝ y → x ＝ g y) → g ∘ f ~ id
>   is-retraction-transpose-eq' H x = inv (H refl)
> 
>   is-injective-has-transpose-eq :
>     ({x : B} {y : A} → x ＝ f y → g x ＝ y) → is-injective f
>   is-injective-has-transpose-eq H =
>     is-injective-retraction f (g , is-retraction-transpose-eq H)
> 
>   is-retraction-is-retraction-transpose-eq :
>     is-retraction-transpose-eq ∘ transpose-eq-is-retraction ~ id
>   is-retraction-is-retraction-transpose-eq H = refl
> 
>   is-section-is-retraction-transpose-eq :
>     transpose-eq-is-retraction ∘ is-retraction-transpose-eq ~ id
>   is-section-is-retraction-transpose-eq H =
>     eq-multivariable-htpy-implicit 2 (λ x y → eq-htpy (λ where refl → refl))
> ```

Nice! We already have `transpose-eq-retraction` and `transpose-eq-section` in the library. The entries you mention here naturally belong to `retractions` and to `sections` (for the duals that you didn't write out).

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 25]
```diff
@@ -0,0 +1,311 @@
...
+        ( map-transpose-is-∞-equiv K x y)
+        ( is-∞-equiv-htpy
+          ( inv-htpy (htpy-map-transpose-htpy-is-∞-equiv x y))
+          ( is-∞-equiv-comp
+            ( is-∞-equiv-is-equiv (is-equiv-concat' _ _))
+            ( is-∞-equiv-map-transpose-is-∞-equiv H x y)))
+        ( is-∞-equiv-map-transpose-is-∞-equiv K x y)
+```
+
+## Operations
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:260]: For completeness, can you add `id-∞-equiv`?

**Comment by fredrik-bakke** [comment]
Feel free to add them to this PR without crediting me.

**Comment by fredrik-bakke** [comment]
> Feel free to add them to this PR without crediting me. 😄

Never mind. I'll add them in #1024

**Comment by EgbertRijke** [comment]
I am factoring out transpositions of identifications along retractions and sections in this pull request. I don't quite understand why it was considered a nontrivial task, because I'm just moving some entries to new files.

**Comment by fredrik-bakke** [comment]
> I am factoring out transpositions of identifications along retractions and sections in this pull request. I don't quite understand why it was considered a nontrivial task, because I'm just moving some entries to new files.

I think the contents of `transposing-identifications-along-equivalences` should depend on the contents of `transposing-identifications-along-sections` and `transposing-identifications-along-retractions`, as it canonically makes a case analysis between the two.

**Comment by EgbertRijke** [comment]
But yes, I like that idea :)

File: src/foundation/finitely-coherent-equivalences.lagda.md (hunk 6 above)
Comment (fredrik-bakke) [reply src/foundation/finitely-coherent-equivalences.lagda.md]: To be honest, I'm not inclined to use the phrasing "follows directly" without elaboration when funext must be applied in this instance since it limits the usefulness of your definition.

Comment (EgbertRijke) [reply src/foundation/finitely-coherent-equivalences.lagda.md]: The new wording doesn't assert that it follows directly.

File: src/foundation/infinitely-coherent-equivalences.lagda.md [hunk 26]
```diff
@@ -0,0 +1,311 @@
...
+    ( is-∞-equiv-htpy α₁
+      ( is-∞-equiv-comp
+        ( is-∞-equiv-is-equiv
+          ( is-equiv-concat' _ (α₀ y)))
+        ( H' x y))
+    ( K' x y).
+```
+
+In other words, there are by the previous data two witnesses of the fact that
+`t x y` is an infinintely coherent equivalence. The second (easiest) element is
```
Comment (fredrik-bakke) [inline src/foundation/infinitely-coherent-equivalences.lagda.md:224]:
```suggestion
`t x y` is an infinitely coherent equivalence. The second (easiest) element is
```

File: src/foundation/infinitely-coherent-equivalences.lagda.md (hunk 23 above)
Comment (EgbertRijke) [reply src/foundation/infinitely-coherent-equivalences.lagda.md:199]: There is already a comma after the displayed homotopy. Usually we don't say "first, and second, and third" but simply "first, second, and third"

Comment (fredrik-bakke) [reply src/foundation/infinitely-coherent-equivalences.lagda.md:199]: ah, my bad

File: src/foundation/transposition-identifications-along-sections.lagda.md [hunk 27]
```diff
@@ -0,0 +1,109 @@
...
+
+  abstract
+    is-section-is-section-transpose-eq :
+      eq-transpose-is-section f g ∘ is-section-transpose-eq ~ id
+    is-section-is-section-transpose-eq H =
+      eq-htpy-implicit
+        ( λ x →
+          eq-htpy-implicit
+          ( λ y →
+            eq-htpy (htpy-is-section-is-section-transpose-eq H x y)))
```
Comment (fredrik-bakke) [inline src/foundation/transposition-identifications-along-sections.lagda.md:95]: For consistency, these definitions should also use `eq-transpose`

File: src/foundation/transposition-identifications-along-retractions.lagda.md [hunk 28]
```diff
@@ -0,0 +1,111 @@
...
+    (H : {x : B} {y : A} → x ＝ f y → g x ＝ y)
+    (x : B) (y : A) →
+    eq-transpose-is-retraction f g (is-retraction-transpose-eq H) {x} {y} ~
+    H {x} {y}
+  htpy-is-section-is-retraction-transpose-eq H x y refl = refl
+
+  abstract
+    is-section-is-retraction-transpose-eq :
+      eq-transpose-is-retraction f g ∘ is-retraction-transpose-eq ~ id
+    is-section-is-retraction-transpose-eq H =
```
Comment (fredrik-bakke) [inline src/foundation/transposition-identifications-along-retractions.lagda.md:93]: For consistency, these definitions should also use `eq-transpose`

File: src/foundation/transposition-identifications-along-sections.lagda.md (hunk 27 above)
Comment (EgbertRijke) [reply src/foundation/transposition-identifications-along-sections.lagda.md:95]: Ok, I will change those in these files.

There is a problem in our library, that we use `transpose-eq` more than `eq-transpose`. I would like to record here that I am not so set on either names. Perhaps `transpose-identification-...` would be a better naming scheme. It is longer, but it would mean that we would have `transpose-identification-equiv` for transposing identifications along equivalences, rather than `transpose-eq-equiv`. The latter is confusing, because `eq-equiv` is its own thing in the library.

Comment (fredrik-bakke) [reply src/foundation/transposition-identifications-along-sections.lagda.md]: Thanks for bringing it up!

**Comment by EgbertRijke** [comment]
I addressed all the comments. Thank you for the thorough review @fredrik-bakke!

**Comment by fredrik-bakke** [comment]
Since this is part of @maybemabeline's diploma project, do you intend to add her as a co-author on this PR?

**Comment by EgbertRijke** [comment]
Sure! Could you do that?:)

**Comment by EgbertRijke** [comment]
Thanks for thinking about that!

**Comment by fredrik-bakke** [comment]
Usually, it requires the co-author's e-mail I think. We can see if it works by using the GitHub handle, e.g.

```text
Co-authored-by: maybemabeline <maybemabeline>
```

Or, if you have the e-mail she uses with her GitHub account, simply add

```text
Co-authored-by: maybemabeline <the@email.com>
```

to the commit message.

**Comment by maybemabeline** [comment]
Thank you for thinking of me :) I didn't have anything to do with this specific commit, but this hierarchy of coherence conditions was something that me and Egbert were thinking about a few months ago. The email I use with this account is mabeltree2@gmail.com.
